US07045545B1
1-(5-hydroxybenzofur-7-yl)-2-aminopropane hydrochloride
A mixture of 0.73 gm (2.38 mMol) N-tert-butoxycarbonyl 1-(5-methoxybenzofur-7-yl)-2-aminopropane and 3.30 gm (28.52 mMol) pyridine hydrochloride were heated at 170° C. in a sealed tube for 15 hours. The mixture was cooled and the residue was dissolved in dichloromethane containing 10% methanol and 1% ammonium hydroxide. The solution was concentrated under reduced pressure and the pyridine remaining in the residue was removed azeotropically by diluting the residue with water and concentrating three times. The residue was crystallized from ethanol:diethyl ether. The 1-(5-hydroxybenzofur-7-yl)-2-aminopropane was recovered in the second crop and the filtrate. 0.045 gm (0.24 mMol) was treated with hydrochloric acid in diethyl ether to provide the title compound.

reactant | N-tert-butoxycarbonyl 1-(5-methoxybenzofur-7-yl)-2-aminopropane | 2.38 mMol, 0.73 gm | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=COC21)OC)C | C17H23NO4
reactant | pyridine hydrochloride | 28.52 mMol, 3.30 gm | Cl.N1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 1-(5-hydroxybenzofur-7-yl)-2-aminopropane hydrochloride | Cl.OC=1C=C(C2=C(C=CO2)C1)CC(C)N | InChI=1S/C11H13NO2.ClH/c1-7(12)4-9-6-10(13)5-8-2-3-14-11(8)9;/h2-3,5-7,13H,4,12H2,1H3;1H
